US05721234
Preparation of methanesulfonic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester
A solution of N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide (5 g, 24 mmol), methylsulfonylchloride (6.9 g, 60 mmol) and pyridine (4.7 g, 60 mmol) in methylene chloride (100 mL) was heated at reflux for 8 h. The mixture was then cooled and washed with water. The organic layer was dried over magnesium sulfate, filtered and evaporated. The resulting solid was washed with diethyl ether and dried (3.8 g, 51% yield) without further purification.

reactant | N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide | 24 mmol, 5 g | OC1CCC=2C=CC=C(C2C1)NC(C)=O | C12H15NO2
reactant | methylsulfonylchloride | 60 mmol, 6.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 60 mmol, 4.7 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester | 51% yield | C(C)(=O)NC=1C=CC=C2CCC(CC12)OS(=O)(=O)C | C13H17NO4S
